US04970213
A suspension of 2 g of 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 30 cm3 of dimethyl sulphoxide and 5 g of 2-methylpiperazine is heated at a temperature close to 100° C., with stirring, for 2 hours. The solution obtained is poured, at this temperature, with stirring, into a mixture of 150 cm3 of water and 50 g of ice. 5 g of potassium carbonate are added at about 20° C. and the mixture is extracted with 3 times 50 cm3 of trichloromethane. The combined organic extracts are washed with twice 50 cm: of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 kPa) at about 50° C. The residue obtained is recrystallized from 30 cm3 of ethanol. 1.6 g of (RS)-3-ethoxycarbonyl-7,9-difluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[ b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 240° C.

reactant | 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 2 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)F)F)=O | C16H11F3N2O3
reactant | 2-methylpiperazine | 5 g | CC1NCCNC1 | C5H12N2
reactant | water | 150 cm3 | O | H2O
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulphoxide | 30 cm3 | CS(=O)C | C2H6OS
product | (RS)-3-ethoxycarbonyl-7,9-difluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[ b][1,8]naphthyridine | 1.6 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)N3CC(NCC3)C)F)=O | C21H22F2N4O3
